US07034039B2
To a mixture of tert-butyl[6-(hydroxymethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.33 g, 0.75 mmol), triethylamine (0.18 mL, 1.1 mmol), N,N,N′,N′-tetramethyletylenediamine (0.011 mL, 0.075 mmol), toluene (6 mL) and tetrahydrofuran (6 mL) was added dropwise a solution of methanesulfonyl chloride (0.088 mL, 1.1 mmol) in toluene, (4 mL) under ice-cooling. The mixture was stirred under ice-cooling for 30 min, the reaction mixture was poured into 0.1N hydrochloric acid (50 mL) and extracted with ethyl acetate (50 mL). The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl)methyl methanesulfonate (0.39 g, 100%) as colorless powder.

reactant | tert-butyl[6-(hydroxymethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.75 mmol, 0.33 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CO)=O)CC(C)C)=O | C26H32N2O4
reactant | triethylamine | 1.1 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.1 mmol, 0.088 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.1N, 50 mL | Cl | ClH
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N,N′,N′-tetramethyletylenediamine | 0.075 mmol, 0.011 mL | CN(CCN(C)C)C | C6H16N2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl)methyl methanesulfonate | 0.39 g, 100% | CS(=O)(=O)OCC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CNC(=O)OC(C)(C)C)C1=CC=CC=C1 | C27H34N2O6S
